US04766133
A solution of 9.8 g of 4-tert-butyl-2,3-dimethylpyridine N-oxide in 120 ml of abs. chloroform is boiled at reflux under argon and treated through the condenser with 25.5 ml of trichloroacetyl chloride. After 22 hours the reaction mixture is poured on to ice, whereupon 10% sodium bicarbonate solution is added, the mixture is extracted with methylene chloride and the methylene chloride solution is dried and concentrated. The thus-obtained crude product is chromatographed on silica gel (solvent: methylene chloride/ether [10:1]). The 2-chloromethyl-4-tert-butyl-3-methylpyridine obtained is processed directly.

reactant | 4-tert-butyl-2,3-dimethylpyridine N-oxide | 9.8 g | C(C)(C)(C)C1=C(C(=[N+](C=C1)[O-])C)C | C11H17NO
reactant | trichloroacetyl chloride | 25.5 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-4-tert-butyl-3-methylpyridine | ClCC1=NC=CC(=C1C)C(C)(C)C | C11H16ClN
